US07262185B2
4-nitrophenyl 2-(4-propyl-4H-1,2,4-triazol-3-yl)ethylsulfide (3.2 g), reduced iron (3.1 g) and calcium chloride (0.6 g) were added to 85% aqueous solution of ethanol (100 ml), and the mixture was refluxed for 3 hours. The reaction solution was filtered with Celite, and the solvent of the filtrate was distilled off. The residue was purified by silica gel column chromatography (elution solvent: triethylamine/methanol/ethyl acetate), to give 4-aminophenyl 2-(4-propyl-4H-1,2,4-triazol-3-yl)ethylsulfide (3.0 g) as yellow amorphous.

reactant | 4-nitrophenyl 2-(4-propyl-4H-1,2,4-triazol-3-yl)ethylsulfide | 3.2 g | [N+](=O)([O-])C1=CC=C(C=C1)C(CSCC(C1=CC=C(C=C1)[N+](=O)[O-])C1=NN=CN1CCC)C1=NN=CN1CCC | C26H30N8O4S
reactant | calcium chloride | 0.6 g | [Cl-].[Ca+2].[Cl-]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4-aminophenyl 2-(4-propyl-4H-1,2,4-triazol-3-yl)ethylsulfide | 3.0 g | NC1=CC=C(C=C1)C(CSCC(C1=CC=C(C=C1)N)C1=NN=CN1CCC)C1=NN=CN1CCC | C26H34N8S
